US04451484
Under a dry nitrogen atmosphere a stirred solution of 6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-carboxylic acid (3.4 grams, 0.0142 mole) in thionyl chloride (10 ml) was heated at reflux for 1.5 hours. The excess thionyl chloride was removed by distillation under reduced pressure. Benzene (10 ml) was added and then removed by distillation under reduced pressure to leave 6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-carbonyl chloride as a residue.

reactant | 6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-carboxylic acid | 0.0142 mole, 3.4 grams | C1=CC=C(C2=C1C1=C(CCC2)C=CC=C1)C(=O)O | C16H14O2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-carbonyl chloride | C1=CC=C(C2=C1C1=C(CCC2)C=CC=C1)C(=O)Cl | C16H13ClO
